US03936464
Preparation of 1-benzyl-4-hydroxy-4-(α,α,α-trifluoro-p-tolyl)-piperidin
A solution of 22.5 g. (0.1 mol) of p-bromobenzotrifluoride in 50 ml. of ether is stirred under argon at ice-bath temperature while 50 ml. of 2M butyl lithium solution is added dropwise. The solution is then stirred at room temperature for 15 minutes, and then cooled again to 0°C. A solution of 17.7 g. of N-benzylpiperidone in 50 ml. of ether is then added over 30 minutes and the reaction is stirred at room temperature for 3 hours. The solution is poured into cracked ice-water and filtered to remove some solid. The filtrate is diluted with methylene chloride, and the organic layer is dried and evaporated. The residue is triturated with petroleum ether (b.p. 30°-60°C.), and the solid is collected, washed with ether and dried to give white solid, m.p. 115°-117°C.

reactant | p-bromobenzotrifluoride | 0.1 mol | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | butyl lithium | 2M | C(CCC)[Li]
reactant | N-benzylpiperidone | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | ether | CCOCC | C4H10O
product | 1-benzyl-4-hydroxy-4-(α,α,α-trifluoro-p-tolyl)-piperidin | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=C(C=C1)C(F)(F)F)O | C19H20F3NO
